Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Keflex / Cephalosporins
 
Attending: ___
 
Chief Complaint:
Complex right wrist and hand injuries after rollover ___
 
Major Surgical or Invasive Procedure:
Skin graft to dorsum of right hand, donor site right hip
Laceration revisions, right hand and wrist
Foreign body removal (glass) right hand

 
History of Present Illness:
___ involved in a high speed motor vehicle roll-over on ___, 
who was extricated from the vehicle unconscious and brought to 
the ___ ED via MedFlight.  She had multiple tendon, nerve and 
arterial injuries of her right hand and arm repaired that same 
day. She also had a large area of coalesced full-thickness soft 
tissue loss on the dorsum of that hand. She returned to the OR 
on ___ for skin grafting and further management of the prior 
wounds.

 
Past Medical History:
(1) anxiety
(2) depression
(3) asthma

 
Social History:
___
Family History:
Non-contributary to trauma.
 
Physical Exam:
AF, VSS
NAD
Well-perfused fingers in cast, able to move fingers, sensation 
intact
 
Brief Hospital Course:
See operative note. Her hospitalization was otherwise uneventful 
and she left the morning after surgery.
 
Discharge Medications:
1. Hydrocodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. Clindamycin HCl 300 mg Capsule Sig: Two (2) Capsule PO three 
times a day for 5 days.
Disp:*30 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complicated right wrist and hand injuries, s/p MVC

 
Discharge Condition:
Ambulating, alert and oriented, tolerating POs, afebrile

 
Discharge Instructions:
Please keep the right hand elevated at all times. 

Do not remove the dressings/splint on the right hand or the 
dressing over the right hip until your followup visit. Keep the 
dressings dry (so sponge baths only, no showers or tub baths).

For pain relief you may take over-the-counter Ibuprofen. For 
breakthru pain despite Ibuprofen, you may add in the Vicodin you 
have been prescribed. Do not drive or take Tylenol with Vicodin 
(it already contains Tylenol). You may want to take an 
over-the-counter stool softener such as Colace while taking 
Vicodin as it can be constipating.

Please take the antibiotic Clindamycin, as prescribed.
 
Followup Instructions:
___